US08629270B2
Racemic Benzyl 2-benzamido-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate
1-Chloro-N,N,2-trimethylpropenylamine (17.9 mL, 135 mmol) is added to a 0° C. solution of racemic benzyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate (51 g, 104 mmol) in dichloromethane (459 mL) and stirred at room temperature for 2 hours. A saturated solution of sodium hydrogen carbonate (300 mL) is added and the layers are separated. The organic layer is dried over magnesium sulfate, the solution concentrated. The crude product is purified over silica gel eluting with dichloromethane to 5% ethyl acetate/dichloromethane to give the title compound (31 g, 63%). ES/MS (m/e): 372 (M+H).

reactant | 1-Chloro-N,N,2-trimethylpropenylamine | 135 mmol, 17.9 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | racemic benzyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-phenyl-pyrrolidine-1-carboxylate | 104 mmol, 51 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C27H27N3O4S
reactant | sodium hydrogen carbonate | 300 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 459 mL | ClCCl | CH2Cl2
product | Racemic Benzyl 2-benzamido-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 31 g, 63% | C(C1=CC=CC=C1)(=O)NC=1SCC2C(N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C2=CC=CC=C2 | C27H25N3O3S
